US06110933
A solution of (3S)-3-[(2S)-5-benzyloxycarbonyl-2-(tertiarybutoxycarbonylamino)pentanoyl]oxyhexadecanamide (4.90 g) in 4N hydrogen chloride in ethyl acetate (10 ml) was stirred at room temperature for an hour, and then at 0° C. for an additional one hour. This solution was diluted with diethyl ether (25 ml). The resulting precipitate was collected by filtration, and washed with diethyl ether (30 ml). This crystalline solid was dried over potassium hydroxide under vacuum to yield (3S)-3-[(2S)-5-benzyloxycarbonyl-2-aminopentanoyl)oxyhexadecanamide hydrochloride (4.35 g).

reactant | (3S)-3-[(2S)-5-benzyloxycarbonyl-2-(tertiarybutoxycarbonylamino)pentanoyl]oxyhexadecanamide | 4.90 g | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)OC(C)(C)C | C34H56N2O7
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | (3S)-3-[(2S)-5-benzyloxycarbonyl-2-aminopentanoyl)oxyhexadecanamide hydrochloride | 4.35 g | Cl.C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)N | InChI=1S/C29H48N2O5.ClH/c1-2-3-4-5-6-7-8-9-10-11-15-19-25(22-27(31)32)36-29(34)26(30)20-16-21-28(33)35-23-24-17-13-12-14-18-24;/h12-14,17-18,25-26H,2-11,15-16,19-23,30H2,1H3,(H2,31,32);1H/t25-,26-;/m0./s1
